US07652015B2
Place (2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-yl)-carbamic acid tert-butyl ester (504 mg, 1.46 mmol) in THF (10 mL). Add 4 M HCl in dioxane (4 mL, 16 mmol) and heat to 60° C. for 3 hours. Cool the reaction to room temperature and load onto a Varian™ SCX column. Wash the column with MeOH and then flush off the product with 2 M NH3 in MeOH. Collect filtrate and concentrate under reduced pressure to yield 175 mg (49%) of 2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-ylamine.

reactant | (2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-yl)-carbamic acid tert-butyl ester | 1.46 mmol, 504 mg | C(C)(C)(C)OC(NC=1N(N=C(C1)[Si](C)(C)C)C1=CC=C(C=C1)C)=O | C18H27N3O2Si
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 16 mmol, 4 mL | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-ylamine | 175 mg, 49% | C1(=CC=C(C=C1)N1N=C(C=C1N)[Si](C)(C)C)C | C13H19N3Si
